US06448242B1
Preparation of 1,3-bis(1-tert-butoxycarbonyl-4-piperidinyl)-2-[(dimethylamino)methyl]propane
Dimethylamine hydrochloride (638 mg; 7.8 mmol), potassium carbonate (1.2 g; 8.7 mmol) and potassium iodide (144 mg; 0.87 mmol) were added to a solution in dimethylformamide (10 ml) of 1,3-bis(1-tert-butoxycarbonyl-4-piperidinyl)-2-(bromomethyl)propane (437 mg; 0.87 mmol) synthesized by the above process, and the mixture was stirred for 4 hours in a bath controlled at 60° C. A 0.1N aqueous solution of sodium hydroxide was added to the reaction mixture to conduct extraction with diethyl ether. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resultant crude oil was purified by column chromatography on silica gel, thereby obtaining 243 mg (yield: 60%) of the title compound as a colorless oil.

reactant | Dimethylamine hydrochloride | 7.8 mmol, 638 mg | Cl.CNC
reactant | potassium carbonate | 8.7 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.87 mmol, 144 mg | [I-].[K+]
reactant | 1,3-bis(1-tert-butoxycarbonyl-4-piperidinyl)-2-(bromomethyl)propane | 0.87 mmol, 437 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(CC1CCN(CC1)C(=O)OC(C)(C)C)CBr | C24H43BrN2O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1,3-bis(1-tert-butoxycarbonyl-4-piperidinyl)-2-[(dimethylamino)methyl]propane | 243 mg, yield: 60% | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(CC1CCN(CC1)C(=O)OC(C)(C)C)CN(C)C | C26H49N3O4
